US08071588B2
1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropanecarboxylic acid
To methyl 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropanecarboxylate (12.25 g, 28.5 mmol) in a 500 mL round-bottom flask under nitrogen in tetrahydrofuran (THF) (170 mL) and water (55 mL) was added lithium hydroxide (1.025 g, 42.8 mmol). After 30 min the THF was evaporated off and the aqueous residue cooled in ice and taken to pH 6 using 2M hydrochloric acid causing, with scratching, a brown precipitate to form. This was stirred for about 20 min before filtering under vacuum (damp weight=7.1 g) then being dried at 40° C. under vacuum over a weekend. This gave a sandy-brown solid, 5.91 g (50%). HPLC 1.72 min (ret time), 99.1%; LC-MS m/z 416 (M+H)+, 0.68 min (ret time). HPLC showed much of the desired product still in solution (pH still 6). The pH of the aqueous solution was adjusted to pH 10 and evaporated in order to re-acidify it to precipitate more product. The mixture was left to stand over a weekend and the solid then collected. This gave a brown crystalline solid, 2.76 g (23%). HPLC 1.72 min (ret time), 99.4%.

reactant | methyl 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropanecarboxylate | 28.5 mmol, 12.25 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2(CC2)C(=O)OC)CC | C22H31N5O4
reactant | water | 55 mL | O | H2O
reactant | lithium hydroxide | 42.8 mmol, 1.025 g | [OH-].[Li+]
solvent | tetrahydrofuran | 170 mL | O1CCCC1 | C4H8O
product | 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropanecarboxylic acid | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2(CC2)C(=O)O)CC | C21H29N5O4
